US07723381B2
9H-fluoren-9-ylmethyl[4-(2-methylthiazol-4-yl)cyclohexyl]carbamate:
4.00 g (7 mmol) of 9H-fluoren-9-ylmethyl[4-(2-bromoacetyl)cyclohexyl]carbamate (cis compound) and 0.700 g (9 mmol) of thioacetamide are refluxed in 50 mL of acetonitrile for 72 hours with stirring. Then the reaction mixture is concentrated by evaporation, the residue is purified by chromatography. Corresponding fractions are combined and evaporated to dryness. The crystalline residue is extracted with diisopropyl ether and suction filtered. Yield: 1.10 g (39%) of cis compound; NMR: LH201648; m.p.: 140° C.-141° C.

reactant | 9H-fluoren-9-ylmethyl[4-(2-bromoacetyl)cyclohexyl]carbamate | 7 mmol, 4.00 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC1CCC(CC1)C(CBr)=O)=O | C23H24BrNO3
reactant | thioacetamide | 9 mmol, 0.700 g | C(C)(=S)N | C2H5NS
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 9H-fluoren-9-ylmethyl[4-(2-methylthiazol-4-yl)cyclohexyl]carbamate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC1CCC(CC1)C=1N=C(SC1)C)=O | C25H26N2O2S
